US07414050B2
b) 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester
To a solution of 5-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (as prepared in the previous step, 0.320 g, 1.50 mmol) in 5 mL of THF at −78° C. was added n-BuLi (0.80 mL, 2 M in cyclohexane) and the mixture was allowed to attain RT and stirred for 30 min. The mixture was cooled to −78° C. and ethyl cyanoformate (0.160 g, 1.65 mmol) was added and the mixture allowed to stir for 10 h at RT. The reaction was diluted with 15 mL of EtOAc and washed with NaHCO3 (2×15 mL) and brine (15 mL). The title compound was eluted from a 20-g SPE with 50% EtOAc/hexanes to give 0.160 g (38%) of a light brown oil: Mass spectrum (ESI, m/z): Calcd. for C13H24N2O3Si, 285.2 (M+H). found 284.9.

reactant | 5-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | CC1=CN=CN1COCC[Si](C)(C)C | C10H20N2OSi
reactant | n-BuLi | 2 M, 0.80 mL | [Li]CCCC
reactant | ethyl cyanoformate | 1.65 mmol, 0.160 g | C(#N)C(=O)OCC | C4H5NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 0.160 g, 38% | C(C)OC(=O)C=1N(C(=CN1)C)COCC[Si](C)(C)C | C13H24N2O3Si
